US05858995
A mixture of 6-(3-amino-2,6-dichlorobenzoylamino)-1,2,3,4-tetrahydrodibenzofuran (100 mg), methanesulfonyl chloride (120 mg) and triethylamine (162 mg) in dichloromethane (3 ml) was stirred at ambient temperature for 2 hours. The reaction mixture was diluted with dichloromethane and washed with 1N-hydrochloric acid, aqueous saturated sodium bicarbonate and brine. The solution was dried over sodium sulfate and concentrated in vacuo. The residual oil was crystallized from ethanol to give 6-[2,6-dichloro-3-bis(methanesulfonyl)aminobenzoyl-amino]-1,2,3,4-tetrahydrodibenzofuran (87 mg).

reactant | 6-(3-amino-2,6-dichlorobenzoylamino)-1,2,3,4-tetrahydrodibenzofuran | 100 mg | NC=1C(=C(C(=O)NC2=CC=CC=3C4=C(OC32)CCCC4)C(=CC1)Cl)Cl | C19H16Cl2N2O2
reactant | methanesulfonyl chloride | 120 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 162 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 6-[2,6-dichloro-3-bis(methanesulfonyl)aminobenzoyl-amino]-1,2,3,4-tetrahydrodibenzofuran | 87 mg | ClC1=C(C(=O)NC2=CC=CC=3C4=C(OC32)CCCC4)C(=CC=C1N(S(=O)(=O)C)S(=O)(=O)C)Cl | C21H20Cl2N2O6S2
